US05866611
A solution of phenyl boronic acid (0.36 g) in ethanol (3.0 ml) was added to a stirred suspension of N-isopropyl-3-(3-bromophenoxy)propylamine (1.0 gm) and tetrakis(triphenylphosphine)-palladium (100 mg) in aqueous 2M sodium carbonate (4.0 ml) and toluene (6.5 ml) under an atmosphere of argon. The mixture was heated at reflux for 18 hours and then cooled to ambient temperature. The reaction mixture was diluted with ethyl acetate, washed with aqueous 2M sodium hydroxide and the organic phase was evaporated to give a solid. The solid was dissolved in hot ethanol, the solution was filtered, and the filtrate evaporated to give a residue which was purified by dry-flash column chromatography on silica gel (Merck 60H, Art No 7736) using ethyl acetate initially followed by ethyl acetate/1% triethylamine as eluent. There was thus obtained an oil which was treated with ethereal hydrogen chloride to give a solid which was recrystallised from isopropyl alcohol to give N-isopropyl-3-(3-phenylphenoxy)propylamine hydrogen chloride (0.26 g) as a solid, m.p. 147°-149° C.; microanalysis, found: C, 70.7; H, 7.9; N, 4.7; Cl, 11.5%; C18H23NO. HCl requires: C, 70.7; H, 7.91; N, 4.58; Cl, 11.6%; NMR(CD3 !2SO): 1.27(6H,d), 2.16(2H,m), 3.05(2H,br.m), 3.30(1H,m), 4.18(2H,t), 6.96(1H,d of d), 7.24(2H,d of d), 7.31-7.52(4H,m), 7.67(2H,d of d) and 9.07(1H,br.s); m/z 270(M+H).

reactant | phenyl boronic acid | 0.36 g | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | N-isopropyl-3-(3-bromophenoxy)propylamine | 1.0 gm | C(C)(C)NCCCOC1=CC(=CC=C1)Br | C12H18BrNO
reactant | hydrogen chloride | Cl | ClH
solvent | ethanol | 3.0 ml | C(C)O | C2H6O
solvent | sodium carbonate | 2M, 4.0 ml | C([O-])([O-])=O.[Na+].[Na+]
solvent | toluene | 6.5 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | tetrakis(triphenylphosphine)-palladium | 100 mg | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | N-isopropyl-3-(3-phenylphenoxy)propylamine hydrogen chloride | 0.26 g | Cl.C(C)(C)NCCCOC1=CC(=CC=C1)C1=CC=CC=C1 | InChI=1S/C18H23NO.ClH/c1-15(2)19-12-7-13-20-18-11-6-10-17(14-18)16-8-4-3-5-9-16;/h3-6,8-11,14-15,19H,7,12-13H2,1-2H3;1H
